US06376669B1
2-[(3-Nitro-4-quinolinyl)amino]ethanol (6 g) was combined with ethanol (200 mL) and platinum on carbon catalyst. The mixture was hydrogenated on a Parr apparatus. This procedure was repeated four additional times using a total of 30 g of starting material. The mixtures from all five hydrogenations were combined and then filtered through a layer of Celite® filter aid to remove the catalyst. The filtrate was concentrated under vacuum to provide crude 2-[(3-amino-4-quinolinyl)amino]ethanol.

reactant | 2-[(3-Nitro-4-quinolinyl)amino]ethanol | 6 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCCO | C11H11N3O3
catalyst | platinum on carbon | [Pt] | Pt
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 2-[(3-amino-4-quinolinyl)amino]ethanol | NC=1C=NC2=CC=CC=C2C1NCCO | C11H13N3O
